US04146715
A mixture of 9-(2-hydroxyethoxymethyl)guanine (4.6 g), dry dimethylformamide (46 ml), acetic anhydride (16 ml) and dry pyridine (24 ml) was stirred at room temperature overnight. The resulting white solid was removed by filtration and dissolved in warm dimethylformamide (100 ml), pyridine (10 ml) and acetic anhydride (8 ml) added and the mixture stirred for 18 hr. The white solid formed was removed by filtration, washed with ethyl acetate and recrystallized from dimethylformamide to give 9-(2-acetyloxyethoxymethyl)guanine (3.3 g), m.p. 240°-241° C.

reactant | 9-(2-hydroxyethoxymethyl)guanine | 4.6 g | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
reactant | dimethylformamide | 46 ml | CN(C=O)C | C3H7NO
reactant | acetic anhydride | 16 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 24 ml | N1=CC=CC=C1 | C5H5N
product | 9-(2-acetyloxyethoxymethyl)guanine | 3.3 g | C(C)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C10H13N5O4
